US06348474B1
3-(3,4-Dichlorobenzyl)-2-methylbenzo[b]thiophene-5-carboxylic acid (160 mg) was dissolved in dry dimethylformamide (2 ml). Carbonyl-diimidazole (111 mg) was added and the mixture was stirred at room temperature for 1 hr. To the reaction mixture were added n-pentanesulfonamide (108 mg) and 1,8-diazabicyclo[5,4,0]undec-7-ene (122 mg) and the mixture was stirred at 100° C. for 1.5 hr. The reaction mixture was cooled in ice, and the pH thereof was adjusted to pH 4 with 1N hydrochloric acid. The mixture was partitioned between ethyl acetate and water. The organic layer was washed twice with water, dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue was eluted by silica gel column chromatography (hexane:ethyl acetate=1:1) . The resulting residue was crystallized from hexane-ethyl acetate to give 3-(3,4-dichlorobenzyl)-2-methyl-5-(n-pentanesulfonylcarbamoyl)benzo[b]thiophene (118 mg).

reactant | 3-(3,4-Dichlorobenzyl)-2-methylbenzo[b]thiophene-5-carboxylic acid | 160 mg | ClC=1C=C(CC=2C3=C(SC2C)C=CC(=C3)C(=O)O)C=CC1Cl | C17H12Cl2O2S
reactant | Carbonyl-diimidazole | 111 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | n-pentanesulfonamide | 108 mg | C(CCCC)S(=O)(=O)N | C5H13NO2S
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 122 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-(3,4-dichlorobenzyl)-2-methyl-5-(n-pentanesulfonylcarbamoyl)benzo[b]thiophene | 118 mg | ClC=1C=C(CC=2C3=C(SC2C)C=CC(=C3)C(NS(=O)(=O)CCCCC)=O)C=CC1Cl | C22H23Cl2NO3S2
